US07282506B2
Preparation of 8-(3-Hydroxy-prop-1-ynyl-[1,6]naphthyridine-2-carboxylic acid cyclopropylamide
8-Bromo-[1,6]naphthyridine-2-carboxylic acid cyclopropylamide, acetylene (2.5 equiv), tetrakis(triphenylphosphine)palladium (0) (5 mol %), copper (I) iodide (25 mol %), and potassium carbonate (3.0 equiv) are dissolved in 5:1 DME:water. The reaction vessel is purged with N2 and stirred overnight at 50° C. The solvent is removed in vacuo and the residue purified by preparative TLC (EtOAc) to afford the desired product as an off-white solid, LC/MS (M+H) 268.2.

reactant | 8-Bromo-[1,6]naphthyridine-2-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=NC2=C(C=NC=C2C=C1)Br | C12H10BrN3O
reactant | acetylene | 2.5 equiv | C#C | C2H2
reactant | potassium carbonate | 3.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DME | COCCOC | C4H10O2
catalyst | bis(dibenzylideneacetone)palladium | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | copper (I) iodide | [Cu]I
product | 3-Hydroxy-prop-1-ynyl-[1,6]naphthyridine-2-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=NC2=CC=NC=C2C=C1C#CCO | C15H13N3O2
